US07312241B2
To a stirred solution of (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)-methanol (1.15 g, 3.80 mmol) in CH2Cl2 (20 ml) at rt was added activated MnO2 powder (1.65 g, 19 mmol) and kept adding 2˜3 equivalents of MnO2 every 3˜5 h until HPLC showed at least 98% conversion occurred. The black suspension was filtered through a Celite pad, concentrated in vacuo to give (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3,5-dimethoxy-phenyl)-methanone as an oil (1.06 g, 93%): 1HNMR (CDCl3) δ 7.42 (d, J=1 Hz, 1H, Ar), 7.38 (dd, J=1.88, 8 Hz, 1H, Ar), 6.92 (d, J=8 Hz, 1H, Ar), 6.88 (d, J=2 Hz, 2H, Ar), 6.64 (t, J=2 Hz, 1H, Ar), 4.36-4.29 (m, 4H, 2CH2), 3.82 (s, 6H, OCH3). The product was carried over to the next step.

reactant | (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)-methanol | 3.80 mmol, 1.15 g | O1CCOC2=C1C=CC(=C2)C(O)C2=CC(=CC(=C2)OC)OC | C17H18O5
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 19 mmol, 1.65 g | O=[Mn]=O
catalyst | MnO2 | 2˜3 equivalents | O=[Mn]=O
product | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-(3,5-dimethoxy-phenyl)-methanone | 1.06 g, 93% | O1CCOC2=C1C=CC(=C2)C(=O)C2=CC(=CC(=C2)OC)OC | C17H16O5
